US06403595B1
4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-[4-methoxycarbonyl-1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone
To 1-[1-(tert-butoxycarbonyl)-4-methoxycarbonylpiperidin-4-ylmethyl]-4-(7-chloro-2H-benzopyran-3-sulfonyl)-2-piperazinone (260 mg) was added 4N hydrochloric acid in ethyl acetate (10 ml) and methanol (4 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated to give colorless solid of 4-(7-chloro-2H-benzopyran-3-sulfonyl)-1-(4-methoxycarbonylpiperidin-4-ylmethyl)-2-piperazinone hydrochloride (228 mg). A solution of 4-(7-chloro-2H-benzopyran-3-sulfonyl)-1-(4-methoxycarbonylpiperidin-4-ylmethyl)-2-piperazinone hydrochloride (228 mg), chloropyridine hydrochloride (80 mg) and triethylamine (225 mg) in ethanol (14 ml) was allowed to react in a sealed tube at 150° C. for 15 hours. The reaction solution was concentrated, and the residue was dissolved in dichloromethane. The solution was washed with 1N sodium hydroxide solution, dried and concentrated, and the residue was purified with silica gel column chromatography (dichloromethane:methanol containing 10% ammonia solution=20:1) to give colorless solid of the title compound (126 mg).

reactant | 4-(7-chloro-2H-benzopyran-3-sulfonyl)-1-(4-methoxycarbonylpiperidin-4-ylmethyl)-2-piperazinone hydrochloride | 228 mg | Cl.ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)CC2(CCNCC2)C(=O)OC)=O)C=C1
reactant | chloropyridine hydrochloride | 80 mg | Cl.ClC1=NC=CC=C1
reactant | triethylamine | 225 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 4-(7-Chloro-2H-benzopyran-3-sulfonyl)-1-[4-methoxycarbonyl-1-(4-pyridyl)piperidin-4-ylmethyl]-2-piperazinone | 126 mg | ClC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)CC2(CCN(CC2)C2=CC=NC=C2)C(=O)OC)=O)C=C1 | C26H29ClN4O6S
